US05990151
To a solution of the methyl 3-[4-methoxy-3-(2-phenylethoxy) phenyl]-2-methoxycarbonyl-2-(2-propen-1-yl)propionate (7.50 g) in 75 ml of methanol, 0.73 g of sodium hydroxide in 1.1 ml of water was added and refluxed by heating for 30 hours under stirring. The reaction solution was concentrated under reduced pressure, and the residue was dissolved in 61 ml of aqueous solution of 3 N sodium hydroxide. The solution was refluxed by heating for 11 hours under stirring. The reaction solution cooled to room temperature was washed with diethyl ether. Then, concentrated hydrochloric acid was added thereto to make the solution acidic. The resultant solution was extracted with dichloromethane and dried over anhydrous magnesium sulfate. The drying agent was separated by filtration and the filtrate was concentrated under reduced pressure. The residue was stirred at 140-150° C. for 4 hours under heating to obtain 6.21 g of crude 3-[4-methoxy-3-(2-phenylethoxy)phenyl]-2-(2-propen-1-yl) propionic acid. This crude compound was used in the subsequent step without purification.

reactant | methyl 3-[4-methoxy-3-(2-phenylethoxy) phenyl]-2-methoxycarbonyl-2-(2-propen-1-yl)propionate | 7.50 g | COC1=C(C=C(C=C1)CC(C(=O)OC)(CC=C)C(=O)OC)OCCC1=CC=CC=C1 | C24H28O6
reactant | sodium hydroxide | 0.73 g | [OH-].[Na+]
solvent | methanol | 75 ml | CO | CH4O
solvent | water | 1.1 ml | O | H2O
product | 3-[4-methoxy-3-(2-phenylethoxy)phenyl]-2-(2-propen-1-yl) propionic acid | 6.21 g | COC1=C(C=C(C=C1)CC(C(=O)O)CC=C)OCCC1=CC=CC=C1 | C21H24O4
